US04008273
A. Pinacolone tert.-butylhydrazone
To a solution of 5 g. (.05 m.) pinacolone in 50 ml. benzene was added 5 g. (.057 m.) tert.-butylhydrazine and a spatula tip of para-toluenesulfonic acid. The flask was fitted with a Dean Stark trap and the reaction refluxed until 0.9 ml. (.05 m.) of water was azeotroped off. The solution was cooled down and the benzene stripped off leaving 8.5 g. (100%) of a white fluffy solid. The infra-red spectrum of the solid was consistent with the structure of the proposed compound.

reactant | pinacolone | CC(C(C)(C)C)=O | C6H12O
reactant | tert.-butylhydrazine | C(C)(C)(C)NN | C4H12N2
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Pinacolone tert.-butylhydrazone | C(C)(C)(C)NN=C(C)C(C)(C)C | C10H22N2
